US08110581B2
(5S)-7-(5-Chloropyridin-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of (5S)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride (29.4 mg, 0.000107 mol, this compound was prepared by using procedures analogous to those described for the synthesis of example 92, steps 1-3), 5-chloro-2-fluoropyridine (17 mg, 0.000013 mol) and potassium carbonate (0.029 mL, 0.00032 mol) in N,N-dimethylformamide (0.6 mL, 0.008 mol) was heated at 120° C. for 5 h. The crude product was purified by prep-HPLC to afford the desired product. LC-MS: 350.2 (M+H)+.

reactant | (5S)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride | Cl.O1CCC(CC1)N1C([C@@]2(CC1)CNCCC2)=O
reactant | 5-chloro-2-fluoropyridine | 0.000013 mol, 17 mg | ClC=1C=CC(=NC1)F | C5H3ClFN
reactant | potassium carbonate | 0.00032 mol, 0.029 mL | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 0.008 mol, 0.6 mL | CN(C=O)C | C3H7NO
product | (5S)-7-(5-Chloropyridin-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one | ClC=1C=CC(=NC1)N1C[C@@]2(CCN(C2=O)C2CCOCC2)CCC1 | C18H24ClN3O2
